US07745646B2
Sodium hydride (230 mg, 60%, 5.8 mmol) was added portionwise to a solution of 4-amino-3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one (800 mg, 1.86 mmol) and DMSO (20 mL). After 10 min at rt, 3,4,5-trichloropyridine (1.0 g, 5.47 mmol) was added. The reaction was then heated at 50° C. overnight, allowed to cool to rt, quenched with drops of water, poured into 0.5M KH2PO4 (15 mL), and then extracted with ethyl acetate (50 mL×2). The combined extracts were washed with brine (50 mL), dried, filtered, concentrated, and purified by silica gel chromatography (ethyl acetate:petroleum ether) to give 3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2H-chromen-2-one.

reactant | Sodium hydride | 5.8 mmol, 230 mg | [H-].[Na+]
reactant | 4-amino-3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-7-methoxy-2H-chromen-2-one | 1.86 mmol, 800 mg | NC1=C(C(OC2=C(C(=CC=C12)OC)OC1CCCC1)=O)CCOCC1=CC=CC=C1 | C24H27NO5
reactant | 3,4,5-trichloropyridine | 5.47 mmol, 1.0 g | ClC=1C=NC=C(C1Cl)Cl | C5H2Cl3N
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 3-(2-(benzyloxy)ethyl)-8-(cyclopentyloxy)-4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2H-chromen-2-one | C(C1=CC=CC=C1)OCCC=1C(OC2=C(C(=CC=C2C1NC1=C(C=NC=C1Cl)Cl)OC)OC1CCCC1)=O | C29H28Cl2N2O5
